US08609656B2
1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-{4-[4-(2-morpholin-4-yl-ethoxy)indol-1-yl]phenyl}urea (Table 1, Compound No. 22)
The title compound can be synthesized from 1H-indole-4-ol, 2-morpholin-4-ylethanol, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate in the same manner as in Example 20.

reactant | 1H-indole-4-ol | N1C=CC=2C(=CC=CC12)O | C8H7NO
reactant | 2-morpholin-4-ylethanol | N1(CCOCC1)CCO | C6H13NO2
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-{4-[4-(2-morpholin-4-yl-ethoxy)indol-1-yl]phenyl}urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C=CC2=C(C=CC=C12)OCCN1CCOCC1)C(F)(F)F | C28H26ClF3N4O3
